US07781452B2
(1e) 6-Methoxy-5-methyl-2-nitro-3-pyridinamine
The crude product (1.93 g) of N-(6-methoxy-5-methyl-2-nitro-3-pyridinyl) acetamide was dissolved in methanol (36 ml), 5N sodium hydroxide solution (6 ml) was added, and the reaction mixture was stirred for 15 minutes at room temperature. After water was added to the reaction solution, it was extracted with ethyl acetate and dried over magnesium sulfate, and the solvent was evaporated, thereby yielding the title compound (1.06 g, 5.79 mmol) as a yellow solid.

reactant | N-(6-methoxy-5-methyl-2-nitro-3-pyridinyl) acetamide | COC1=C(C=C(C(=N1)[N+](=O)[O-])NC(C)=O)C | C9H11N3O4
reactant | sodium hydroxide | 5N, 6 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 36 ml | CO | CH4O
product | 6-Methoxy-5-methyl-2-nitro-3-pyridinamine | 5.79 mmol, 1.06 g | COC1=C(C=C(C(=N1)[N+](=O)[O-])N)C | C7H9N3O3
